US04582947
A mixture of 30 mg (0.75 mmol) of powdered sodium hydroxide, 100 mg (0.59 mmol) of 1,2-dinitrobenzene, 155 mg (0.75 mmol) of 2,6-di-t-butylphenol, and 1.0 mL of dimethylsulfoxide was heated at 60° C. for 17 hours and poured into 10 mL of 1N HCl, and the resulting aqueous mixture was extracted with three 10 mL portions of diethyl ether. The ether layers were combined, dried over magnesium sulfate, and concentrated. Purification of the residue by preparative thin layer chromatography (tlc) afforded 206 mg of crude 2,6-di-t-butyl-4-(2-nitrophenyl)phenol.

reactant | sodium hydroxide | 0.75 mmol, 30 mg | [OH-].[Na+]
reactant | 1,2-dinitrobenzene | 0.59 mmol, 100 mg | [N+](=O)([O-])C1=C(C=CC=C1)[N+](=O)[O-] | C6H4N2O4
reactant | 2,6-di-t-butylphenol | 0.75 mmol, 155 mg | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
reactant | HCl | 1N, 10 mL | Cl | ClH
solvent | dimethylsulfoxide | 1.0 mL | CS(=O)C | C2H6OS
product | 2,6-di-t-butyl-4-(2-nitrophenyl)phenol | 206 mg | C(C)(C)(C)C1=C(C(=CC(=C1)C1=C(C=CC=C1)[N+](=O)[O-])C(C)(C)C)O | C20H25NO3
